US04496560
Following the working method described in Example 15, 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (10 g) is treated with methanesulphonic acid (10 cc) in acetonitrile (100 cc). 7-Amino-2-benzhydryloxycarbonyl-8-oxo-3-(thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (8.2 g) is obtained in the form of a yellow solid.

reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=CS1)NC(=O)OC(C)(C)C)=O | C28H27N3O5S2
reactant | methanesulphonic acid | 10 cc | CS(=O)(=O)O | CH4O3S
solvent | acetonitrile | 100 cc | C(C)#N | C2H3N
product | 7-Amino-2-benzhydryloxycarbonyl-8-oxo-3-(thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 8.2 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=CS1 | C23H19N3O3S2
